US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-N-phenyl-1-piperidinepropanamide
A mixture of 10.0 g (0.033 mole) of α,α-bis(4-fluorophenyl)-4-piperidine-methanol, 6.5 g (0.033 mole) of 3-chloro-N-methyl-N-phenylpropanamide, 14.0 g (0.132 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 100 ml of N,N-dimethylformamide was heated on a steam bath for 16 h. The mixture was poured into 2 L of water and extracted three times with 500 mL portions of ethyl acetate. The ethyl acetate fractions were combined, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a yellow glass. The glass was purified by column chromatography using 250 g of silica gel on a 65 cm×4 column, eluted with ethyl acetate. The fractions containing the desired product were combined and concentrated under reduced pressure to yield 11.0 g (72%) of a white solid. A portion of this solid was recrystallized from ethyl ether to give a white solid, mp 73°-75° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidine-methanol | 0.033 mole, 10.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 3-chloro-N-methyl-N-phenylpropanamide | 0.033 mole, 6.5 g | ClCCC(=O)N(C1=CC=CC=C1)C | C10H12ClNO
reactant | sodium carbonate | 0.132 mole, 14.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 L | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-N-phenyl-1-piperidinepropanamide | 11.0 g, 72% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCC(=O)N(C1=CC=CC=C1)C)(O)C1=CC=C(C=C1)F | C28H30F2N2O2
